US05080708
11.7 g of aniline are added dropwise to 10.0 g of 3-ethylisoxazole-5-carbonyl chloride in 150 ml of dichloromethane, while cooling with ice. The mixture is stirred overnight at room temperature, water and concentrated hydrochloric acid are added and the organic phase is separated off, washed with sodium bicarbonate solution and evaporated down to give 11.8 g of 3-ethylisoxazole-5-carboxanilide as colorless crystals of melting point 122°-124° C.

reactant | aniline | 11.7 g | NC1=CC=CC=C1 | C6H7N
reactant | 3-ethylisoxazole-5-carbonyl chloride | 10.0 g | C(C)C1=NOC(=C1)C(=O)Cl | C6H6ClNO2
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3-ethylisoxazole-5-carboxanilide | 11.8 g | C(C)C1=NOC(=C1)C(=O)NC1=CC=CC=C1 | C12H12N2O2
